US05580865
2-(6-benzhydryloxy-2-methyl-5-oxo-2.5-dihydro-1,2,4-triazin-3-yl)thio-2-benzyl-4-tert-butylcarbonyl-7α-methoxy-3-methyl-3-cephem 1,1-dioxide (compound 14)
A solution of 2-(6-benzhydryloxy-2-methyl-5-oxo-2,5-dihydro-1,2,4-triazin-3-yl)thio-4-tert-butylcarbonyl-7α-methoxy-3-methyl-3-cephem 1,1-dioxide (300 mg) in acetonitrile (5 ml) was treated at room temperature with triethylamine (0.067 ml) and benzyl bromide (0.172 ml). After 4 hr, the reaction mixture was diluted with dichloromethane, washed with brine and dried over Na2SO4. The solvent was then removed and the residue purified by flash chromatography, thereby obtaining the title compound as a white solid (180 mg).

reactant | 2-(6-benzhydryloxy-2-methyl-5-oxo-2,5-dihydro-1,2,4-triazin-3-yl)thio-4-tert-butylcarbonyl-7α-methoxy-3-methyl-3-cephem 1,1-dioxide | 300 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC=1C(N=C(N(N1)C)SC1S([C@H]2N(C(=C1C)C(=O)C(C)(C)C)C([C@@H]2OC)=O)(=O)=O)=O | C30H32N4O7S2
reactant | triethylamine | 0.067 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 0.172 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(6-benzhydryloxy-2-methyl-5-oxo-2.5-dihydro-1,2,4-triazin-3-yl)thio-2-benzyl-4-tert-butylcarbonyl-7α-methoxy-3-methyl-3-cephem 1,1-dioxide | 180 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC=1C(N=C(N(N1)C)SC1(S([C@H]2N(C(=C1C)C(=O)C(C)(C)C)C([C@@H]2OC)=O)(=O)=O)CC2=CC=CC=C2)=O | C37H38N4O7S2
